US06632826B1
A solution of 4-Benzyl-5-(2-carboxy-4-oxo-cyclohexylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (1.66 g, 3.74 mmol) in dry dichloromethane (20 ml) was stirred at 0° C. during sequential treatment with tert-butyl amine (1.4 ml, 12.7 mmol), 1-hydroxybenzotriazole hydrate (570 mg, 5 mmol) and N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride (970 mg, 5 mmol). The resulting mixture was allowed to warm to room temperature and was stirred for 20 hours and then concentrated in vacuo. The crude mixture was dissolved in ethyl acetate and the resulting solution washed with saturated aqueous sodium hydrogen carbonate solution, 1 M hydrochloric acid and brine, dried (anhydrous magnesium sulfate) and concentrated in vacuo. Purification by flash chromatography on silica gel (ethyl acetate/hexane: 1/3 to 4/6) provided 4-benzyl-5-(2-tert-butylcarbamoyl-4-oxo-cyclohexylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (1.2 g, 61%). Mass spectrum 502 [M+H]+.

reactant | 4-Benzyl-5-(2-carboxy-4-oxo-cyclohexylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 3.74 mmol, 1.66 g | C(C)(C)(C)OC(=O)N1C(OC(C1CC1=CC=CC=C1)CC1C(CC(CC1)=O)C(=O)O)(C)C | C25H35NO6
reactant | tert-butyl amine | 12.7 mmol, 1.4 ml | C(C)(C)(C)N | C4H11N
reactant | 1-hydroxybenzotriazole hydrate | 5 mmol, 570 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N-ethyl-N′-(3-dimethylaminopropyl)carbodiimide hydrochloride | 5 mmol, 970 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-benzyl-5-(2-tert-butylcarbamoyl-4-oxo-cyclohexylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 1.2 g, 61% | C(C)(C)(C)OC(=O)N1C(OC(C1CC1=CC=CC=C1)CC1C(CC(CC1)=O)C(NC(C)(C)C)=O)(C)C | C29H44N2O5
